US07253192B2
E] 1-(2-Fluoro-4-hydroxy-3-methyl-phenyl)-ethanone
A solution of 1.09 g (5.96 mmol) 1-(2-fluoro-4-methoxy-3-methyl-phenyl)-ethanone was dissolved in 12 ml acetic acid and 6 ml 62% aqueous HBr. The reaction mixture was stirred 2 h at room temperature and heated to 120° C. for 6 h, cooled, diluted with ether and neutralized carefully with aqueous saturated NaHCO3 (pH=8). Extraction of the water phase with ether (two times), washing with aqueous 10% NaCl, drying (Na2SO4) and evaporation gave 0.78 g of the crude product as a dark red gum.

reactant | 1-(2-fluoro-4-methoxy-3-methyl-phenyl)-ethanone | 5.96 mmol, 1.09 g | FC1=C(C=CC(=C1C)OC)C(C)=O | C10H11FO2
solvent | acetic acid | 12 ml | C(C)(=O)O | C2H4O2
solvent | HBr | 6 ml | Br | BrH
solvent | ether | CCOCC | C4H10O
solvent | NaHCO3 | pH=8 | C(=O)(O)[O-].[Na+]
product | 1-(2-Fluoro-4-hydroxy-3-methyl-phenyl)-ethanone | 0.78 g | FC1=C(C=CC(=C1C)O)C(C)=O | C9H9FO2
